US07868001B2
1 mmol 3-(2-bromoacetyl)benzonitrile and 1 mmol 6-chloropyridazin-3-amine in 10 ml EtOH were heated to reflux for 12 h, then cooled to room temperature. The orange-red precipitate was collected by filtration, washed with cold EtOH, and air-dried to give the 3-(6-chloroimidazo[1,2-b]pyridazin-2-yl)benzonitrile (125 mg, 50%).

reactant | 3-(2-bromoacetyl)benzonitrile | 1 mmol | BrCC(=O)C=1C=C(C#N)C=CC1 | C9H6BrNO
reactant | 6-chloropyridazin-3-amine | 1 mmol | ClC1=CC=C(N=N1)N | C4H4ClN3
solvent | EtOH | 10 ml | CCO | C2H6O
product | 3-(6-chloroimidazo[1,2-b]pyridazin-2-yl)benzonitrile | 125 mg, 50% | ClC=1C=CC=2N(N1)C=C(N2)C=2C=C(C#N)C=CC2 | C13H7ClN4
